US08629158B2
b) 4-(Pyridin-2-ylmethoxy)pyridin-2(1H)-one (CAS Registry Number 1008518-20-4) (WO 2007/043835 to Kim et al., which is hereby incorporated by reference in its entirety)
2-Chloro-4-(pyridin-2-ylmethoxy)pyridine (4.10 g, 18.5 mmol) and ammonium acetate (7.21 g, 92.3 mmol) were heated to 110° C. in a mixture of formic acid (20 mL) and water (20 mL) for 5 days. The mixture was concentrated to remove most of the liquid and then adjusted to pH 8 with NaHCO3 solution. The resulting solid was filtered off to provide the title compound (3.1 g, 83%) as a white solid: ESI MS m/z 203 [M+H]+.

reactant | 2-Chloro-4-(pyridin-2-ylmethoxy)pyridine | 18.5 mmol, 4.10 g | ClC1=NC=CC(=C1)OCC1=NC=CC=C1 | C11H9ClN2O
reactant | ammonium acetate | 92.3 mmol, 7.21 g | C(C)(=O)[O-].[NH4+]
solvent | formic acid | 20 mL | C(=O)O | CH2O2
solvent | water | 20 mL | O | H2O
product | 4-(Pyridin-2-ylmethoxy)pyridin-2(1H)-one | 3.1 g, 83% | N1=C(C=CC=C1)COC1=CC(NC=C1)=O | C11H10N2O2
